US04933447
To 0.17 g of 5-morpholino-8-quinolinecarboxamide (Compound No. 22) 10 ml of anhydrous ethanol and 2 ml of concentrated sulfuric acid were added, and the mixture was heated under reflux. The solvent was evaporated and the residue was neutralized with saturated aqueous solution of sodium bicarbonate. After extraction with ethyl acetate, the extract was washed with saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. Ethyl acetate was evaporated, and the residue was refined by column chromatography on silica gel using chloroform-n-hexane (3:2) as an eluent. The crystals thus obtained were recrystallized from chloroform-ether to yield 0.16 g (yield: 85%) of ethyl 5-morpholino-8-quinolincarboxylate (Compound No. 23).

reactant | 5-morpholino-8-quinolinecarboxamide | 10 ml, 0.17 g | O1CCN(CC1)C1=C2C=CC=NC2=C(C=C1)C(=O)N | C14H15N3O2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | ethyl 5-morpholino-8-quinolincarboxylate | 0.16 g, yield: 85% | O1CCN(CC1)C1=C2C=CC=NC2=C(C=C1)C(=O)OCC | C16H18N2O3
